US07750155B2
To a solution of (2E)-3-[5-({(3R)-1-[2-methyl-2-phenylpropyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (130 mg) in EtOH (0.7 mL) was added 2N—HCl solution in EtOH (0.7 mL) and the reaction mixture was stirred for 2 hours at ambient temperature. Acetone was added to the mixture and filtered. The filtrate was evaporated and dried to give (2E)-N-hydroxy-3-[5-[{(3R)-1-(2-methyl-2-phenylpropyl)-3-pyrrolidinyl}amino]-2-pyrazinyl]acrylamide dihydrochloride (108 mg).

reactant | (2E)-3-[5-({(3R)-1-[2-methyl-2-phenylpropyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 130 mg | CC(CN1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)NOC1OCCCC1)(C)C1=CC=CC=C1 | C26H35N5O3
reactant | HCl | Cl | ClH
reactant | Acetone | CC(=O)C | C3H6O
solvent | EtOH | 0.7 mL | CCO | C2H6O
solvent | EtOH | 0.7 mL | CCO | C2H6O
product | (2E)-N-hydroxy-3-[5-[{(3R)-1-(2-methyl-2-phenylpropyl)-3-pyrrolidinyl}amino]-2-pyrazinyl]acrylamide dihydrochloride | 108 mg | Cl.Cl.ONC(\C=C\C1=NC=C(N=C1)N[C@H]1CN(CC1)CC(C)(C1=CC=CC=C1)C)=O | InChI=1S/C21H27N5O2.2ClH/c1-21(2,16-6-4-3-5-7-16)15-26-11-10-18(14-26)24-19-13-22-17(12-23-19)8-9-20(27)25-28;;/h3-9,12-13,18,28H,10-11,14-15H2,1-2H3,(H,23,24)(H,25,27);2*1H/b9-8+;;/t18-;;/m1../s1
